### PR TITLE
feat(SchwartzMap): prove whole file with Aristotle

### PR DESCRIPTION
**Pull request by pitmonticone**
Co-authored-by: Aristotle Harmonic [aristotle-harmonic@harmonic.fun](mailto:aristotle-harmonic@harmonic.fun)

### CODE REVIEW

File: SpherePacking/ForMathlib/PoissonSummation/SchwartzMap.lean [hunk 1]
```diff
@@ -135,13 +128,15 @@ example {a b : ℝ} : 0 ≤ a → 0 ≤ b → (a ≤ b ↔ a ^ 2 ≤ b ^ 2) := b
...
-  intro y
-  simp only [coordinateEmbedding₁₂, coe_funUnique, eval, Fin.default_eq_zero, Fin.isValue,
-    ENNReal.toReal_ofNat, Nat.ofNat_pos, norm_eq_sum, Real.norm_eq_abs, rpow_two, _root_.sq_abs,
-    Fin.sum_univ_two, one_div, Finset.univ_unique, Finset.sum_singleton, pow_one]
-  sorry
+  apply HasTemperateGrowth.of_fderiv <| fderiv_coordinateEmbedding₁₂_hasTemperateGrowth x
+  exact fun y => (coordinateEmbedding₁₂_hasDerivAt x y).differentiableAt
+  case k => exact 1
+  simp only [coordinateEmbedding₁₂, coe_funUnique, Fin.default_eq_zero]
+  intro y; rw [EuclideanSpace.norm_eq]; norm_num
```
Comment (b-mehta) [inline SpherePacking/ForMathlib/PoissonSummation/SchwartzMap.lean]:
```suggestion
  intro y
  rw [EuclideanSpace.norm_eq]
  norm_num
```

File: SpherePacking/ForMathlib/PoissonSummation/SchwartzMap.lean [hunk 2]
```diff
@@ -135,13 +128,15 @@ example {a b : ℝ} : 0 ≤ a → 0 ≤ b → (a ≤ b ↔ a ^ 2 ≤ b ^ 2) := b
...
     (coordinateEmbedding₁₂ x).HasTemperateGrowth := by
-  refine Function.HasTemperateGrowth.of_fderiv (fderiv_coordinateEmbedding₁₂_hasTemperateGrowth x)
-    ((coordinateEmbedding₁₂_smooth x).differentiable le_top) (k := 1) (C := max ‖x‖ 1) ?_
-  intro y
-  simp only [coordinateEmbedding₁₂, coe_funUnique, eval, Fin.default_eq_zero, Fin.isValue,
-    ENNReal.toReal_ofNat, Nat.ofNat_pos, norm_eq_sum, Real.norm_eq_abs, rpow_two, _root_.sq_abs,
-    Fin.sum_univ_two, one_div, Finset.univ_unique, Finset.sum_singleton, pow_one]
-  sorry
+  apply HasTemperateGrowth.of_fderiv <| fderiv_coordinateEmbedding₁₂_hasTemperateGrowth x
+  exact fun y => (coordinateEmbedding₁₂_hasDerivAt x y).differentiableAt
```
Comment (b-mehta) [inline SpherePacking/ForMathlib/PoissonSummation/SchwartzMap.lean]: Can we replace `exact fun y =>` with `intro y`?

File: SpherePacking/ForMathlib/PoissonSummation/SchwartzMap.lean [hunk 3]
```diff
@@ -135,13 +128,15 @@ example {a b : ℝ} : 0 ≤ a → 0 ≤ b → (a ≤ b ↔ a ^ 2 ≤ b ^ 2) := b
...
+  case k => exact 1
```
Comment (b-mehta) [inline SpherePacking/ForMathlib/PoissonSummation/SchwartzMap.lean]: This looks odd, I guess it's setting the metavariable a bit late? Can we go back to the `(k := 1) (C := max ‖x‖ 1)` style as it was before?

File: SpherePacking/ForMathlib/PoissonSummation/SchwartzMap.lean [hunk 4]
```diff
@@ -98,34 +102,23 @@ by
...
-
--- We need to use the following to get an expression for the `fderiv` of `coordinateEmbedding₁₂ x`.
--- #check HasFDerivAt.fderiv
+  have h_diff_zero (y : Euc(1)):
+    coordinateEmbedding₁₂ x y - coordinateEmbedding₁₂ x p -
+      coordinateEmbedding₁₂_fderiv x (y - p) = 0 := by
+      ext i; fin_cases i <;> simp [coordinateEmbedding₁₂, coordinateEmbedding₁₂_fderiv]
+  simp_all [hasFDerivAt_iff_tendsto]
 
-/-- The Jacobian of `coordinateEmbedding₁₂` has temperate growth. -/
```
Comment (b-mehta) [inline SpherePacking/ForMathlib/PoissonSummation/SchwartzMap.lean:125]: Let's restore this comment

File: SpherePacking/ForMathlib/PoissonSummation/SchwartzMap.lean [hunk 5]
```diff
@@ -98,34 +102,23 @@ by
         EuclideanSpace.proj, PiLp.proj]
       using ((EuclideanSpace.proj (ι := Fin 1) (𝕜 := ℝ) 0 : Euc(1) →L[ℝ] ℝ).contDiff)
 
--- We first show temperate growth.
```
Comment (b-mehta) [inline SpherePacking/ForMathlib/PoissonSummation/SchwartzMap.lean:101]: I think we should restore line 101,  but 102-105 can stay removed.

File: SpherePacking/ForMathlib/PoissonSummation/SchwartzMap.lean [hunk 6]
```diff
@@ -98,34 +102,23 @@ by
...
--- #check Function.HasTemperateGrowth
-
--- We can use the following tool to show temperate growth.
--- #check Function.HasTemperateGrowth.of_fderiv
-
--- Note: We can probably do away with the `x` here as I doubt any of the proofs will need it.
-/-- The Jacobian of `coordinateEmbedding₁₂ x` for all `x : ℝ`. -/
```
Comment (b-mehta) [inline SpherePacking/ForMathlib/PoissonSummation/SchwartzMap.lean:108]: Let's keep these two comments

**Review by b-mehta — APPROVED** [review]

File: SpherePacking/ForMathlib/PoissonSummation/SchwartzMap.lean (hunk 6 above)
Comment (pitmonticone) [reply SpherePacking/ForMathlib/PoissonSummation/SchwartzMap.lean:108]: Done.

File: SpherePacking/ForMathlib/PoissonSummation/SchwartzMap.lean (hunk 5 above)
Comment (pitmonticone) [reply SpherePacking/ForMathlib/PoissonSummation/SchwartzMap.lean:101]: Done.
